US06838567B1
To methyl (S)-4-amino-2-hydroxybutyrate hydrochloride (169.0 mg; 132.7 mg when calculated as methyl (S)-4-amino-2-hydroxybutyrate) was added 3 ml of dioxane, followed by further addition of 178.5 mg of thionyl chloride. The mixture was stirred at room temperature for 2 hours. Thereafter, 2.3 mg of pyridine was added, and the mixture was further stirred at 50° C. for 3 hours. After confirmation of disappearance of the starting material by TLC, the solvent was distilled off under reduced pressure to give methyl (R)-4-amino-2-chlorobutyrate hydrochloride. To this were added 10 ml of chloroform and 5 ml of a saturated aqueous solution of sodium hydrogen carbonate, and the aqueous layer was further extracted six times with chloroform. The organic layer was dried over sodium sulfate and the solvent was distilled off to give 125.5 mg of (R)-3-chloro-2-pyrrolidinone (yield quantitative, optical purity 93.9% ee). The analysis of the optical purity was carried out by high performance liquid chromatography using a chiral column (Chiralcel OB-H (Daicel))

reactant | methyl (S)-4-amino-2-hydroxybutyrate hydrochloride | 169.0 mg | Cl.NCC[C@@H](C(=O)OC)O
reactant | dioxane | 3 ml | O1CCOCC1 | C4H8O2
reactant | thionyl chloride | 178.5 mg | S(=O)(Cl)Cl | Cl2OS
solvent | pyridine | 2.3 mg | N1=CC=CC=C1 | C5H5N
product | methyl (R)-4-amino-2-chlorobutyrate hydrochloride | Cl.NCC[C@H](C(=O)OC)Cl | InChI=1S/C5H10ClNO2.ClH/c1-9-5(8)4(6)2-3-7;/h4H,2-3,7H2,1H3;1H/t4-;/m1./s1
